US04174320
Rifamycin S is reacted with 1,3,5-tri-(2-morpholinoethyl)-hexahydro-1,3,5-triazine and with paraformaldehyde in the presence of oxalic acid, following essentially the process described in Example 10 but using dimethylacetamide as solvent. After the addition of 1-amino-4-methylpiperazine and proceeding as previously described, substantially pure rifampicin is isolated in similar yield.

reactant | Rifamycin S | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
reactant | 1,3,5-tri-(2-morpholinoethyl)-hexahydro-1,3,5-triazine | O1CCN(CC1)CCN1CN(CN(C1)CCN1CCOCC1)CCN1CCOCC1 | C21H42N6O3
reactant | paraformaldehyde | C=O | CH2O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 1-amino-4-methylpiperazine | NN1CCN(CC1)C | C5H13N3
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | rifampicin | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=C2O)C(=C3O)/C=N/N5CCN(CC5)C)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C43H58N4O12
